US04218455
4-[(4-Chlorophenyl)thio]-1,2,3,6-tetrahydropyridine Hydrochloride.
The product is prepared according to the procedure for the synthesis of 4-[(4-fluorophenyl)thio]-1,2,3,6-tetrahydropyridine hydrochloride by reducing 26.3 g of 4-[(4-chlorophenyl)thio]pyridine with aluminum hydride. The hydrochloride salt is generated in ether from the crude oil to afford a light tan powder, m.p. 174°-175° C.

reactant | 4-[(4-fluorophenyl)thio]-1,2,3,6-tetrahydropyridine hydrochloride | Cl.FC1=CC=C(C=C1)SC=1CCNCC1
reactant | 4-[(4-chlorophenyl)thio]pyridine | 26.3 g | ClC1=CC=C(C=C1)SC1=CC=NC=C1 | C11H8ClNS
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 4-[(4-Chlorophenyl)thio]-1,2,3,6-tetrahydropyridine Hydrochloride | Cl.ClC1=CC=C(C=C1)SC=1CCNCC1 | InChI=1S/C11H12ClNS.ClH/c12-9-1-3-10(4-2-9)14-11-5-7-13-8-6-11;/h1-5,13H,6-8H2;1H
